US08303944B2
(S)-3-methyl-1-((S)-2-(5-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-1H-imidazol-2-yl)pyrrolidin-1-yl)-2-(thiazol-2-ylamino)butan-1-one
A mixture of (S)-1-((S)-2-(5-(4-bromophenyl)-1H-imidazol-2-yl)pyrrolidin-1-yl)-3-methyl-2-(thiazol-2-ylamino)butan-1-one (87.5 mg, 0.184 mmol), 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (141 mg, 0.553 mmol), potassium acetate (91 mg, 0.922 mmol) and Pd(Ph3P)4 (21.31 mg, 0.018 mmol) was suspended in dioxane and degassed by bubbling N2 through the mixture. It was then heated at 85° C. After heating for 4 h the mixture was concentrated and purified by passing through a pad of silica gel eluting with 1:1 hex:EtOAc, and then EtOAc (neat) to give afforded the desired product as a light yellow film (101 mg). LCMS (CH3CN—H2O—NH4OAc) showed that the product was contaminated with ca. 10% PPh3O. The material was used as is in subsequent steps. LCMS: Anal. Calcd. for C27H36BN5O3S: 521. found: 522 (M+H)+.

reactant | (S)-1-((S)-2-(5-(4-bromophenyl)-1H-imidazol-2-yl)pyrrolidin-1-yl)-3-methyl-2-(thiazol-2-ylamino)butan-1-one | 0.184 mmol, 87.5 mg | BrC1=CC=C(C=C1)C1=CN=C(N1)[C@H]1N(CCC1)C([C@H](C(C)C)NC=1SC=CN1)=O | C21H24BrN5OS
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 0.553 mmol, 141 mg | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 0.922 mmol, 91 mg | C(C)(=O)[O-].[K+]
solvent | dioxane | O1CCOCC1 | C4H8O2
catalyst | Pd(Ph3P)4 | 0.018 mmol, 21.31 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (S)-3-methyl-1-((S)-2-(5-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-1H-imidazol-2-yl)pyrrolidin-1-yl)-2-(thiazol-2-ylamino)butan-1-one | CC([C@@H](C(=O)N1[C@@H](CCC1)C=1NC(=CN1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)NC=1SC=CN1)C | C27H36BN5O3S
